US09422331B2
A mixture of (2S,3S)-3-(2-amino-5-cyanophenylamino)-2-(tert-butoxycarbonylamino)butanoic acid (4.9 g, 14.7 mmol) in acetonitrile (96 ml), was cooled in an ice water bath, then 1-methylimidazole (3.5 ml, 44.0 mmol) was added and the reaction was stirred at 0° C. for 20 min, then methanesulfonyl chloride (1.31 ml, 16.9 mmol) was added dropwise. The cooling bath was removed and the reaction was stirred at RT for 2 h, then concentrated to 13 volume and treated with water (˜200 ml, dropwise addition). The resulting solid was separated by filtration, washed with H2O, and dried under vacuum at 50° C. for 3 h to afford tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (4.2 g). The aqueous solution was extracted with EtOAc, dried over Na2SO4, and purified by flash chromatography (0-60% EtOAc in DCM) to afford additional product (0.4 g). MS m/z 339 (MNa)+.

reactant | (2S,3S)-3-(2-amino-5-cyanophenylamino)-2-(tert-butoxycarbonylamino)butanoic acid | 14.7 mmol, 4.9 g | NC1=C(C=C(C=C1)C#N)N[C@H]([C@@H](C(=O)O)NC(=O)OC(C)(C)C)C | C16H22N4O4
reactant | 1-methylimidazole | 44.0 mmol, 3.5 ml | CN1C=NC=C1 | C4H6N2
reactant | methanesulfonyl chloride | 16.9 mmol, 1.31 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 96 ml | C(C)#N | C2H3N
product | tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 4.2 g | C(#N)C1=CC2=C(NC([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)C=C1 | C16H20N4O3
